data/oMe_Silver.jsonl
{"reaction_id": "NR-103_1-C#N_2-c2ccc(C)cc2_3-c2ccc(OC)cc2_4-c2sccc2_5-N1CCCCC1","level": "medium","name": "Hass-Bender Oxidation","reactants_smiles": ["BrCc1c(C#N)c(c2ccc(C)cc2)c(c2ccc(OC)cc2)c(c2sccc2)c1N1CCCCC1","CC(C)[N+](=O)[O-]","[Na+].[O-]CC"],"products_smiles": ["O=Cc1c(C#N)c(c2ccc(C)cc2)c(c2ccc(OC)cc2)c(c2sccc2)c1N1CCCCC1"],"conditions": "","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "CC(C)=[N+]([O-])[O-]","step_weight": 0,"rationale": "The α-proton of the nitroalkane is acidic due to resonance stabilization of the resulting nitronate anion by the electron-withdrawing nitro group, allowing base-induced deprotonation."},{"step": 2,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "[N+]([O-])(=C(C)C)OCc1c(C#N)c(c2ccc(C)cc2)c(c2ccc(OC)cc2)c(c2sccc2)c1N1CCCCC1","step_weight": 0,"rationale": "The nitronate anion acts as a strong nucleophile, attacking the benzylic carbon where the bromide is a good leaving group, aided by benzylic resonance stabilization of the transition state."},{"step": 3,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "O=Cc1c(C#N)c(c2ccc(C)cc2)c(c2ccc(OC)cc2)c(c2sccc2)c1N1CCCCC1","step_weight": 0,"rationale": "Elimination of the nitro group occurs because the benzylic position can stabilize the developing carbonyl through conjugation with the aromatic ring, making aldehyde formation thermodynamically favorable."}],"description": "In the Hass-Bender oxidation, the nitroalkane is deprotonated to form a nitronate anion, which then displaces the benzylic bromide via nucleophilic substitution. Subsequent elimination of the nitro group yields the aldehyde, driven by resonance stabilization of the aromatic carbonyl product."}
{"reaction_id": "NR-208_1-C_2-Cl_3-c1ccccc1_4-COCC","level": "easy","name": "Overman Rearrangement","reactants_smiles": ["C(C)=C(Cl)C(c1ccccc1)(COCC)OC=N"],"products_smiles": ["C(=O)NC(C)C(Cl)=C(c1ccccc1)(COCC)"],"conditions": "None","mechanism_step_nums": 1,"mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "C(=O)NC(C)C(Cl)=C(c1ccccc1)(COCC)","step_weight": 0,"rationale": "Thermal activation enables a [3,3]-sigmatropic shift via a six-membered cyclic transition state, with allylic π-orbitals and imidate lone pairs overlapping to form a more stable amide through resonance stabilization."}],"description": "The allylic imidate undergoes a concerted [3,3]-sigmatropic rearrangement under thermal conditions, shifting the connectivity to form an allylic amide. This pericyclic process is driven by favorable orbital overlap and the thermodynamic stability of the amide product."}
